US03993656
Preparation of N1 -[2-amino-4,6-di(trifluoromethyl)nicotinoyl]-N2 -benzenesulfonyl hydrazine
2-Amino-4,6-di(trifluoromethyl)-nicotinic acid hydrazide (4.35 g., 15.1 mmole) is stirred in 1N sodium hydroxide solution (36.3 ml.) untila clear solution is obtained. Benzenesulfonyl chloride (2.94 g., 16.6 mmole) is added in one portion and the mixture stirred rapidly until solution is complete. On pouring this solution into a stirred solution of acetic acid (0.9 g., 15 mmole) in water (40 ml.), a fine precipitate is formed. The pH of the suspension is adjusted to circa 6.5 with acetic acid and the product collected, washed with water and dried giving 6.52 g. (theoretical) of product sintering at circa 230° C., m.p. 235°-238° C. (dec.). The product is obtained pure by precipitation from a filtered solution of the crude product in ethyl acetate (4 parts volume by weight) by addition of chloroform (10 parts volume by weight) providing product with m.p. 243°-245° C. (dec.).

reactant | 2-Amino-4,6-di(trifluoromethyl)-nicotinic acid hydrazide | 15.1 mmole, 4.35 g | NC1=C(C(=O)NN)C(=CC(=N1)C(F)(F)F)C(F)(F)F | C8H6F6N4O
reactant | Benzenesulfonyl chloride | 16.6 mmole, 2.94 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | acetic acid | 15 mmole, 0.9 g | C(C)(=O)O | C2H4O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydroxide | 1N, 36.3 ml | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1 -[2-amino-4,6-di(trifluoromethyl)nicotinoyl]-N2 -benzenesulfonyl hydrazine | NC1=C(C(=O)NNS(=O)(=O)C2=CC=CC=C2)C(=CC(=N1)C(F)(F)F)C(F)(F)F | C14H10F6N4O3S
